US08912208B2
B. (4-Hydroxy-4-{4-[6-(6-trifluoromethyl-pyridin-3-ylamino)-pyridin-3-yl]-phenyl}-piperidin-1-yl)-acetic acid
(4-Hydroxy-4-{4-[6-(6-trifluoromethyl-pyridin-3-ylamino)-pyridin-3-yl]phenyl}piperidin-1-yl)-acetic acid ethyl ester (137 mg, 0.27 mmol) was dissolved in THF/MeOH/DMF (3:1:1, 5 mL) and to the solution was added aqueous LiOH (4M, 1 mL). The mixture was stirred at room temperature for 18 hours, then the reaction mixture was filtered and purified by reverse-phase preparative HPLC to give the title compound: 1H NMR (400 MHz, DMSO-d6) ppm 1.54 (qd, J=12.38, 4.29 Hz, 1 H) 1.42 (qd, J=12.51, 4.42 Hz, 1 H) 1.77 (td, J=14.08, 1.14 Hz, 2 H) 2.78 (m, 1 H) 2.98 (td, J=12.63, 2.27 Hz, 1 H) 3.29 (s, 2 H) 3.87 (dd, J=11.37, 2.27 Hz, 1 H) 4.39 (ddd, J=12.69, 1.83, 1.64 Hz, 1 H) 7.04 (d, J=8.59 Hz, 1 H) 7.32 (d, J=8.34 Hz, 2 H) 7.61 (d, J=8.34 Hz, 2 H) 7.80 (d, J=8.84 Hz, 1 H) 7.99 (dd, J=8.72, 2.65 Hz, 1 H) 8.55-8.62 (m, 1 H) 8.57 (d, J=2.53 Hz, 1 H) 8.92 (d, J=2.27 Hz, 1 H) 9.93 (s, 1 H); (M+H)+ 473.3.

reactant | (4-Hydroxy-4-{4-[6-(6-trifluoromethyl-pyridin-3-ylamino)-pyridin-3-yl]phenyl}piperidin-1-yl)-acetic acid ethyl ester | 0.27 mmol, 137 mg | C(C)OC(CN1CCC(CC1)(C1=CC=C(C=C1)C=1C=NC(=CC1)NC=1C=NC(=CC1)C(F)(F)F)O)=O | C26H27F3N4O3
reactant | LiOH | 4M, 1 mL | [Li+].[OH-]
solvent | THF MeOH DMF | 5 mL | C1CCOC1.CO.CN(C)C=O
product | (4-Hydroxy-4-{4-[6-(6-trifluoromethyl-pyridin-3-ylamino)-pyridin-3-yl]-phenyl}-piperidin-1-yl)-acetic acid | OC1(CCN(CC1)CC(=O)O)C1=CC=C(C=C1)C=1C=NC(=CC1)NC=1C=NC(=CC1)C(F)(F)F | C24H23F3N4O3
